US05679696
A stirred solution of sodium hydroxide (16.8 g) in water (32 mL) at 20° C. is treated with dimethyl sulfoxide (560 mL). It is then treated with 3,4-dihydroxy-benzaldehyde (56.9 g), portionwise during 5 minutes, while keeping the temperature at 20° C. It is then treated with benzyl bromide (49.7 mL), portionwise, at 20° C. The solution is then heated at 80° C. for 6 hours and then allowed to stand at room temperature overnight. After dilution with ice-water (2240 mL) the solution is extracted with diethyl ether (1×1000 mL, 2×250 mL). The combined ether extracts are washed with water, dried over magnesium sulfate and concentrated, to give an oily solid, which is recrystallized from a mixture of ethyl acetate and isopropanol, to give 4-benzyloxy-3-hydroxybenzaldehyde (60.9 g), in the form of pale yellow crystals, m.p. 118°-120° C.

reactant | sodium hydroxide | 16.8 g | [OH-].[Na+]
reactant | dimethyl sulfoxide | 560 mL | CS(=O)C | C2H6OS
reactant | 3,4-dihydroxy-benzaldehyde | 56.9 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | benzyl bromide | 49.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 32 mL | O | H2O
product | 4-benzyloxy-3-hydroxybenzaldehyde | 60.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)O | C14H12O3
